US06713499B2
To a stirred solution of 5.00 g (29.7 mmol) 4-methoxy-3-nitro-phenylamine in 60 ml acetonitrile at 0° C. were added 10.2 ml (59.5 mmol) N-ethyldiisopropylamine and 11.6 g (62.4 mmol) 4-methylbenzyl bromide. Stirring was continued at room temperature for 16 h and then the mixture was diluted with ethyl acetate and washed with 0.5 N hydrochloric acid and then with brine. The organic phase was dried over sodium sulfate and concentrated in vacuo to afford 10.4 g (93%) (4-methoxy-3-nitro-phenyl)-bis-(4-methyl-benzyl)-amine as an orange oil. ES-MS m/e (%): 399 (M+Na+, 18), 377 (M+H+, 100).

reactant | 4-methoxy-3-nitro-phenylamine | 29.7 mmol, 5.00 g | COC1=C(C=C(C=C1)N)[N+](=O)[O-] | C7H8N2O3
reactant | N-ethyldiisopropylamine | 59.5 mmol, 10.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methylbenzyl bromide | 62.4 mmol, 11.6 g | CC1=CC=C(CBr)C=C1 | C8H9Br
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-methoxy-3-nitro-phenyl)-bis-(4-methyl-benzyl)-amine | 10.4 g, 93% | COC1=C(C=C(C=C1)N(CC1=CC=C(C=C1)C)CC1=CC=C(C=C1)C)[N+](=O)[O-] | C23H24N2O3
